US04859699
To a solution of 2-nitrothiophene (10.0 g, 77.5 mmol) in 60 ml of chloroform is added aluminum chloride (6.0 g, 45.0 mmol). The mixture is cooled to 10° and chlorine gas is bubbled through for 3 hours at 25°-30°. Nitrogen gas is then bubbled through the mixture for 10 min., after which the mixture is poured into ice water and extracted with chloroform. The combined chloroform layers are washed with water and with brine and dried to give 2-nitro-4,5-dichlorothiophene.

reactant | 2-nitrothiophene | 77.5 mmol, 10.0 g | [N+](=O)([O-])C=1SC=CC1 | C4H3NO2S
reactant | aluminum chloride | 45.0 mmol, 6.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-nitro-4,5-dichlorothiophene | [N+](=O)([O-])C=1SC(=C(C1)Cl)Cl | C4HCl2NO2S
